US09212187B2
Synthesis of 1-ethyl-3,3,5-trimethyl-7-[3-(2-oxo-3-phenyl-3,4-dihydro-2H-quinolin-1-yl)propoxy]-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione
10% Palladium on carbon(20 mg) was added to an ethanol/ethyl acetate solution (1:1, 4 ml) of 7-[3-(4-chloro-2-oxo-3-phenyl-2H-quinoline-1-yl)propoxy]-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione(0.19 g). The mixture was subjected to catalytic reduction at 50° C. under normal pressure for 6 hours. The reaction mixture was subjected to celite filtration to remove the catalyst. The filtrate was condensed under reduced pressure. The residue was purified by silica gel column chromatography (hexane: ethyl acetate=1:1). The purified product was condensed under reduced pressure, and the residue was recrystallized from ether/hexane, thereby obtaining the title compound(0.1 g) as a white powder.

reactant | 7-[3-(4-chloro-2-oxo-3-phenyl-2H-quinoline-1-yl)propoxy]-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 0.19 g | ClC1=C(C(N(C2=CC=CC=C12)CCCOC1=CC2=C(N(C(C(C(N2C)=O)(C)C)=O)CC)C=C1)=O)C1=CC=CC=C1 | C32H32ClN3O4
catalyst | Palladium on carbon | 20 mg | [Pd] | Pd
solvent | ethanol ethyl acetate | 4 ml | C(C)O.C(C)(=O)OCC
product | 1-ethyl-3,3,5-trimethyl-7-[3-(2-oxo-3-phenyl-3,4-dihydro-2H-quinolin-1-yl)propoxy]-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 0.1 g | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)OCCCN2C(C(CC1=CC=CC=C21)C2=CC=CC=C2)=O | C32H35N3O4
